US04349552
Diphenylphosphoryl azide (6.41 g.) was added dropwise to a solution of 3-methyladamantan-1-ylacetic acid (4.85 g.) in dry pyridine (20 ml.) and stirred at 100° C. for 40 minutes to give 3-methyladamantan-1-ylmethyl isocyanate [I.R.: 2260 cm-1 ]. 5-Fluorouracil (2.52 g.) was added to the solution and stirred at 100° C. for 2 hours. The resultant mixture was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and washed with dilute hydrochloric acid and water. Ethyl acetate layer was dried over magnesium sulfate, filtered and evaporated to give residue, which was recrystallized from ethanol to give colorless crystals of 1-[N-(3-methyladamantan-1-ylmethyl)carbamoyl]-5-fluorouracil. (984 mg.)

reactant | Diphenylphosphoryl azide | 6.41 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 3-methyladamantan-1-ylacetic acid | 4.85 g | CC12CC3(CC(CC(C1)C3)C2)CC(=O)O | C13H20O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 3-methyladamantan-1-ylmethyl isocyanate | CC12CC3(CC(CC(C1)C3)C2)CN=C=O | C13H19NO
